US07696223B2
a) 7-Hydroxy-2-(6-phenylsulfanyl-pyridin-3-yl)-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A suspension of 2-(6-chloro-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester, example 92(c)(0.25 g, 0.75 mmol) and triethylamine (0.21 mL, 1.49 mmol) in thiophenol was heated at 100° C. overnight. 100 mL of chloroform was added. The organic solution was washed with saturated sodium bicarbonate solution and brine, dried, filtered, and concentrated. The crude product was purified by flash chromatography eluting from silica gel with a gradient of 0-100% ethyl acetate in hexanes to produce 49.0 mg of a light yellow solid. MS: (+) m/z 410.3 (M+1).

reactant | 2-(6-chloro-pyridin-3-yl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C=2C=NC(=CC2)Cl)O | C14H10ClN3O3S
reactant | triethylamine | 1.49 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 7-Hydroxy-2-(6-phenylsulfanyl-pyridin-3-yl)-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 49.0 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C=2C=NC(=CC2)SC2=CC=CC=C2)O | C20H15N3O3S2
